US07129239B2
Preparation of Intermediate 6-Chloro-N4-(4-chlorophenyl)-2-methyl-pyrimidine-4,5-diamine (I-(7A-80)a)
4,6-Dichloro-2-methylpyrimidin-5-ylamine (100 mg, 0.56 mmol) and 4-chlorophenylamine (86 mg, 0.68 mmol) were combined in H2O (1.5 ml) and 10:1 ethanol/HCl (0.24 ml) and heated to reflux for 6 hours. The reaction mixture was cooled and H2O added to it. The product was collected by filtration and dried on high vacuum to give the desired compound I-(7A-80)a as a tan solid (173 mg) that was carried on crude: +ESI MS (M+1) 269.2.

reactant | 4,6-Dichloro-2-methylpyrimidin-5-ylamine | 0.56 mmol, 100 mg | ClC1=NC(=NC(=C1N)Cl)C | C5H5Cl2N3
reactant | 4-chlorophenylamine | 0.68 mmol, 86 mg | ClC1=CC=C(C=C1)N | C6H6ClN
reactant | ethanol HCl | 0.24 ml | C(C)O.Cl
solvent | H2O | 1.5 ml | O | H2O
product | 6-Chloro-N4-(4-chlorophenyl)-2-methyl-pyrimidine-4,5-diamine | ClC1=C(C(=NC(=N1)C)NC1=CC=C(C=C1)Cl)N | C11H10Cl2N4
